US03960875
A mixture of 250 g of 2,2,4,4,6-pentamethyl-2,3,4,5-tetrahydropyrimidine hydrate, 100 g of acetone and 100 g of methanol is refluxed for 13 hours. The solution is subsequently concentrated in vacuo, and the oil remaining is distilled in vacuo. The yield is 185 g of a slightly yellowish oil, B.P.12 = 80°- 86°C, which, after the addition of about 22 ml of water, solidifies to form crystals of 2,2,6,6-tetramethyl-4-oxopiperidine-hydrate.

reactant | 2,2,4,4,6-pentamethyl-2,3,4,5-tetrahydropyrimidine hydrate | 250 g | O.CC1(N=C(CC(N1)(C)C)C)C
reactant | acetone | 100 g | CC(=O)C | C3H6O
solvent | methanol | 100 g | CO | CH4O
product | 2,2,6,6-tetramethyl-4-oxopiperidine-hydrate | O.CC1(NC(CC(C1)=O)(C)C)C | InChI=1S/C9H17NO.H2O/c1-8(2)5-7(11)6-9(3,4)10-8;/h10H,5-6H2,1-4H3;1H2
